US05371096
To a solution of 4.69 g (0.0133 mole) of 1-(t-butyldimethylsilyloxy)-3-nicotinoylhexan-2,6-diol, 2.18 g (0.032 mole) of imidazole in 12 ml of dimethylformamide is added at once 4.38 g (0.0159 mole) of t-butyldiphenylchlorosilane, the mixture is stirred at room temperature overnight, diluted with 30 ml of ethyl acetate and washed with water (2×10 ml) and brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography using ethyl acetate-methylene chloride (2:3) as eluent to give 1-(t-butyldimethylsilyloxy)-6-(t-butyldiphenylsilyloxy)-3-nicotinoylhexan-2-ol as an oil.

reactant | 1-(t-butyldimethylsilyloxy)-3-nicotinoylhexan-2,6-diol | 0.0133 mole, 4.69 g | [Si](C)(C)(C(C)(C)C)OCC(C(CCCO)C(C1=CN=CC=C1)=O)O | C18H31NO4Si
reactant | imidazole | 0.032 mole, 2.18 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylchlorosilane | 0.0159 mole, 4.38 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(t-butyldimethylsilyloxy)-6-(t-butyldiphenylsilyloxy)-3-nicotinoylhexan-2-ol | [Si](C)(C)(C(C)(C)C)OCC(C(CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(C1=CN=CC=C1)=O)O | C34H49NO4Si2
